### PR TITLE
Kummer-Vandiver conjecture

### LINKED ISSUE #137: Kummer–Vandiver conjecture
### What is the conjecture
[Kummer–Vandiver conjecture](https://en.wikipedia.org/wiki/Kummer%E2%80%93Vandiver_conjecture)

### Prerequisites needed

"no particularly strong evidence either for or against the conjecture", so we should use the answer-formalism.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #137.

Note that this does builds with lean version v.4.20.0, but not with the current version of this repo (v4.17.0) (see [lean4web code](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMB0ARFJHABQDkUSpQBTAKFElkRQ2x1IFcQtqoAVVNWgBPHAGFhAY3QQYEEMEk4AQkgDOi+uGjxkaTLk7deAoVFFGeUAGLBq6ACbj06tZd61PAegC0AQloAYjgAaS4QXkBkAgA1JAA7B2AAN144SQg4gCtqSRgOKDpaACoAJWoAM15qOMlqAC4iuABtAHVgAGtgMGpEpABdAApUGBgwNTqvL2qcAHcOrp7gImgAcy85zq8wkAioAFIAUQAmPYAOAAY9gE4AZliE5N4AfXSsnLyCgEpaHy9PCG6cTg7hsdkccAk0lk8kUtnsDjgAEk1JCZHIFJIDgAPGDVDQZTzAOJqGDxWpwAZAupwQCohABqT5wakguHggYgJBY0BIdBlHkAZQ4WHKYIRA1R0IxrIRQMAWISfRl1AC8cCwwjgRMqUCeRJJZMKaDM1BAcHa4WeSXiiRSUApYCZtIZFNQ9upYEoNEVcAANXA8EknA4A3BAImE9oG0lcIIpHK5HN51AFQpF8IpEvRsNFcHt8oVtDgBaZKrVcDU0HMtCAA)). I'd merge main once version bumps up.

### CODE REVIEW

File: FormalConjectures/Wikipedia/KummerVandiver.lean [hunk 1]
```diff
@@ -0,0 +1,30 @@
...
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Kummer%E2%80%93Vandiver_conjecture)
+-/
+
+open NumberField CyclotomicField IsCyclotomicExtension
+
+instance (n : ℕ+) : NumberField (maximalRealSubfield (CyclotomicField n ℚ)) := by infer_instance
+
+theorem kummer_vandiver (p : ℕ+) (hp : p.Prime) : ¬ Dvd.dvd ↑p (classNumber (maximalRealSubfield (CyclotomicField p ℚ)))
+    := by sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/KummerVandiver.lean]:
```suggestion
theorem kummer_vandiver (p : ℕ+) (hp : p.Prime) :
    ↑p ∣ (classNumber (maximalRealSubfield (CyclotomicField p ℚ))) := by
  sorry
```

File: FormalConjectures/Wikipedia/KummerVandiver.lean [hunk 2]
```diff
@@ -0,0 +1,30 @@
...
+/-!
+# Kummer–Vandiver conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Kummer%E2%80%93Vandiver_conjecture)
+-/
+
+open NumberField CyclotomicField IsCyclotomicExtension
+
+instance (n : ℕ+) : NumberField (maximalRealSubfield (CyclotomicField n ℚ)) := by infer_instance
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/KummerVandiver.lean:28]: It would be nice to have an informal statement here!

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR!

File: FormalConjectures/Wikipedia/KummerVandiver.lean [hunk 3]
```diff
@@ -0,0 +1,30 @@
...
+/-!
+# Kummer–Vandiver conjecture
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Kummer%E2%80%93Vandiver_conjecture)
+-/
+
+open NumberField CyclotomicField IsCyclotomicExtension
+
+instance (n : ℕ+) : NumberField (maximalRealSubfield (CyclotomicField n ℚ)) := by infer_instance
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/KummerVandiver.lean]: you should be able to remove this instance if the proof is `infer_instance`

Comment (seewoo5) [reply FormalConjectures/Wikipedia/KummerVandiver.lean]: Yes you're right, just checked with live lean-lang. Thanks!

File: FormalConjectures/Wikipedia/KummerVandiver.lean [hunk 4]
```diff
@@ -0,0 +1,35 @@
...
+
+open NumberField CyclotomicField IsCyclotomicExtension
+
+
+/--
+Kummer–Vandiver conjecture states that for every prime $p$, the class number of the maximal
+real subfield of $\mathbb{Q}(\zeta_p)$ is not divisible by $p$.
+--/
+@[category research open, AMS 11]
+theorem kummer_vandiver (p : ℕ+) (hp : p.Prime) : ¬ Dvd.dvd
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/KummerVandiver.lean]: Once leanprover-community/mathlib4#29129 is merged you should be able to take `p` with type `ℕ` rather than `ℕ+`.

Comment (seewoo5) [reply FormalConjectures/Wikipedia/KummerVandiver.lean]: Thanks! Is there a plan to bump up mathlib version?

Comment (mo271) [reply FormalConjectures/Wikipedia/KummerVandiver.lean]: yes, soon (see #603) but not yet to the (future) version needed here...

Comment (smmercuri) [reply FormalConjectures/Wikipedia/KummerVandiver.lean]: I think this one only needs 4.20.0 if we keep `PNat`? so #603 should cover it (can leave a TODO to switch to `Nat` in the future)

File: FormalConjectures/Wikipedia/KummerVandiver.lean [hunk 5]
```diff
@@ -0,0 +1,35 @@
...
+    ↑p (classNumber (maximalRealSubfield (CyclotomicField p ℚ))) := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/KummerVandiver.lean]:
```suggestion
theorem kummer_vandiver (p : ℕ+) (hp : p.Prime) :  
    ¬ ↑p ∣ (classNumber (maximalRealSubfield (CyclotomicField p ℚ))) := by
```

**Review by Paul-Lez — APPROVED** [review]

File: FormalConjectures/Wikipedia/KummerVandiver.lean (hunk 4 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/KummerVandiver.lean]: Added a todo for myself
